US04018794
By replacing in Example 1, step C, 4benzoyl-3-n-butoxy-5-nitrobenzoic acid with 3-n-butoxy-4-(4'-chlorobenzoyl)-5-nitrobenzoic acid and following the procedure described, 5-amino-3-n-butoxy-4-(4'-chlorobenzoyl)benzoic acid is obtained with a melting point of 286°-287.5° C.

reactant | 4benzoyl-3-n-butoxy-5-nitrobenzoic acid | C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)O)C=C1[N+](=O)[O-])OCCCC | C18H17NO6
reactant | 3-n-butoxy-4-(4'-chlorobenzoyl)-5-nitrobenzoic acid | C(CCC)OC=1C=C(C(=O)O)C=C(C1C(C1=CC=C(C=C1)Cl)=O)[N+](=O)[O-] | C18H16ClNO6
product | 5-amino-3-n-butoxy-4-(4'-chlorobenzoyl)benzoic acid | NC=1C(=C(C=C(C(=O)O)C1)OCCCC)C(C1=CC=C(C=C1)Cl)=O | C18H18ClNO4
